US09079909B2
A solution of N-(3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide (141 mg, 0.32 mmol) in ethanol (1.5 mL) and 25% NaOH (1.5 mL) was heated to 83° C. for 16 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was washed with ethyl acetate and the organic phases combined, dried over MgSO4, filtered and evaporated to give 3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine as a solid (129 mg) which was used as such in the subsequent step.

reactant | N-(3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 0.32 mmol, 141 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)CCN1CCOCC1 | C25H25FN4O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | NaOH | 1.5 mL | [OH-].[Na+]
product | 3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine | 129 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)N)CCN1CCOCC1 | C23H23FN4O
